US04350817
4-Chloro-1,2-Dihydro-1-Methyl-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid, Ethyl Ester
A stirred mixture of 1.7 g. of 4-hydroxy-1,2-dihydro-1-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester in 25 ml. of phosphorus oxychloride was heated under reflux for 2 hours. The phosphorus oxychloride was removed in a rotary evaporator and the residue was poured into 100 ml. of ice water. The precipitate which formed was collected, air dried and a small amount of the 1.9 g. was recrystallized from heptane twice to give the analytical sample of the title compound, m.p. 132°-135° C.

reactant | 4-hydroxy-1,2-dihydro-1-methyl-2-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=NC=CC=C2C1O)C)=O | C12H12N2O4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1,2-Dihydro-1-Methyl-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid, Ethyl Ester | ClC1=C(C(N(C2=NC=CC=C12)C)=O)C(=O)OCC | C12H11ClN2O3
